US09233920B2
4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide (0.100 g, 0.205 mmol) and 1-[3,5-bis(trifluoromethyl)phenyl)-3-{(S)[(2S,4S,5R)-5-ethyl-1-aza-bicyclo[2.2.2]oct-2-yl]-(6-methoxy-4-quinolinyl)methyl}thiourea (0.0305 g, 0.020 mmol) were dissolved in nitromethane (2.0 ml) and the resulting solution was stirred at 60° C. for 3 days. The reaction mixture was cooled to room temperature and aqueous saturated ammonium chloride was added. The resulting mixture was extracted with dichloromethane (3×) and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 25% ethyl acetate in cyclohexane) to afford 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide (0.021 g, 19%) as a light yellow solid. Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol=70:30, 1 ml/min, retention time 5.71 minutes (major enantiomer), 8.13 minutes (minor enantiomer)) indicated that the reaction proceeded with 79% enantioselectivity. 1H NMR (400 MHz, CDCl3) δ 7.82-7.78 (m, 2H), 7.47 (d, 1H), 7.43-7.41 (m, 1H), 7.19 (s, 2H), 5.90 (s, 1H), 5.60 (d, 1H), 5.45 (d, 1H), 4.13 (d, 1H), 3.97 (d, 1H), 3.88 (d, 2H), 3.09 (d, 2H), 2.53 (s, 3H), 1.87 (s, 3H).

reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide | 0.205 mmol, 0.100 g | ClC=1C=C(C=C(C1)Cl)\C(=C/C(=O)C1=CC(=C(C(=O)NC2(CSC2)C)C=C1)C)\C(F)(F)F | C22H18Cl2F3NO2S
reactant | 1-[3,5-bis(trifluoromethyl)phenyl)-3-{(S)[(2S,4S,5R)-5-ethyl-1-aza-bicyclo[2.2.2]oct-2-yl]-(6-methoxy-4-quinolinyl)methyl}thiourea | 0.020 mmol, 0.0305 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=S)N[C@@H](C1=CC=NC2=CC=C(C=C12)OC)[C@H]1N2C[C@@H]([C@H](C1)CC2)CC)(F)F | C29H30F6N4OS
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | nitromethane | 2.0 ml | [N+](=O)([O-])C | CH3NO2
product | 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-N-(3-methyl-thietan-3-yl)-benzamide | 0.021 g, 19% | ClC=1C=C(C=C(C1)Cl)[C@@](CC(=O)C1=CC(=C(C(=O)NC2(CSC2)C)C=C1)C)(C(F)(F)F)C[N+](=O)[O-] | C23H21Cl2F3N2O4S
